US04394508
A. 5-{[N-methyl-N-(2-propynyl)amino]methyl}-2-furanmethanol
To furfuryl alcohol (2.49 g; 25.4 mmoles) which was cooled in an ice-water bath to 5° was added N-methylpropargylamine hydrochloride (4.0 g; 37.9 mmoles) and 40% formalin (3.13 ml; 41.7 mmoles), and the mixture stirred while allowed to reach ambient temperature. After 1 hour of stirring the solution was allowed to stand at ambient temperature for 41/2 days. The reaction mixture was poured into ice water, made strongly basic with 40% aqueous NaOH and extracted with five portions of methylene chloride. The combined organic phase was dried, filtered and evaporated under reduced pressure to give the product as an oil (quantitative yield). Vacuum distillation yielded the title compound, bp 102°-106°/0.3 mm Hg.

reactant | furfuryl alcohol | 25.4 mmoles, 2.49 g | C(C1=CC=CO1)O | C5H6O2
reactant | N-methylpropargylamine hydrochloride | 37.9 mmoles, 4.0 g | Cl.CNCC#C
reactant | formalin | 41.7 mmoles, 3.13 ml | C=O | CH2O
reactant | NaOH | [OH-].[Na+]
product | 5-{[N-methyl-N-(2-propynyl)amino]methyl}-2-furanmethanol | quantitative yield | CN(CC#C)CC1=CC=C(O1)CO | C10H13NO2
